US08198801B2
4,4′-dibromo-2,2′-diaminobiphenyl (3.5 g, 10.23 mmol) was dissolved in phosphoric acid and heated at 190° C. for 24 hours. The reaction mixture was cooled to room temperature and then NaHCO3 (aq) was gradually added thereto to form a solid. Then, the solid was filtered to obtain 2,7-dibromocarbazole (2.2 g, 66%), the compound represented by formula e. MS [M+] 323.

reactant | 4,4′-dibromo-2,2′-diaminobiphenyl | 10.23 mmol, 3.5 g | BrC1=CC(=C(C=C1)C1=C(C=C(C=C1)Br)N)N | C12H10Br2N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 2,7-dibromocarbazole | 2.2 g, 66% | BrC1=CC=2NC3=CC(=CC=C3C2C=C1)Br | C12H7Br2N
